US07060827B2
In a manner analogous to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 3-hydroxy-4-methoxycarbonylaniline (500 mg, 3 mmol) and 2,4-dichloro-5-fluoropyrimidine (100 mg, 0.6 mmol) gave N2,N4-bis-[3-hydroxy-4-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine (105 mg, 41%). 1H NMR (DMSO-d6): δ 3.90 (s, 3H), 3.93 (s, 3H), 7.31 (dd, J=2.4, 9.0 Hz, 1H), 7.56 (dd, J=2.1, 8.7 Hz, 1H), 7.63 (d, J=2.1 Hz, 1H), 7.67 (d, J=2.1 Hz, 1H), 7.67 (d, J=9.0 Hz, 1H), 7.79 (d, J=9.0 Hz, 1H), 8.28 (d, J=3.6 Hz, 1H), 9.72 (s, 1H, NH), 9.82 (s, 1H, NH), 10.77 (s, 1H, OH), 10.80 (s, 1H, OH); 19F NMR (282 MHz, DMSO-d6): δ −161.74; LCMS: ret. time: 31.47 min.; purity: 96.03%; MS (m/e): 428.99 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 3-hydroxy-4-methoxycarbonylaniline | 3 mmol, 500 mg | OC=1C=C(N)C=CC1C(=O)OC | C8H9NO3
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.6 mmol, 100 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | N2,N4-bis-[3-hydroxy-4-(methoxycarbonyl)phenyl]-5-fluoro-2,4-pyrimidinediamine | 105 mg, 41% | OC=1C=C(C=CC1C(=O)OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C(=O)OC)O)F | C20H17FN4O6
